** MOSFET Gain Stage (AC): Benchmarking Implementation of BSIM4.0.0 
** by Weidong Liu 5/16/2000.
** output redirection into file
** chapter 17.8.8

M1 3 2 0 0 N1 L=1u W=4u
Rsource 1 2 100k
Rload 3 vdd 25k
Vdd vdd 0 1.8 
Vin 1 0 1.2 ac 0.1

.control
ac dec 10 100 1000Meg
plot v(2) v(3)
let flen = length(frequency) $ length of the vector
let loopcounter = 0
echo output test > text.txt  $ start new file test.txt
* loop
while loopcounter lt flen
  let vout2 = v(2)[loopcounter]  $ generate a single point complex vector
  let vout2re = real(vout2)  $ generate a single point real vector
  let vout2im = imag(vout2)  $ generate a single point imaginary vector
  let vout3 = v(3)[loopcounter]  $ generate a single point complex vector  
  let vout3re = real(vout3)  $ generate a single point real vector
  let vout3im = imag(vout3)  $ generate a single point imaginary vector
  let freq = frequency[loopcounter] $ generate a single point vector
  echo  bbb "$&freq" "$&vout2re" "$&vout2im" "$&vout3re" "$&vout3im" >>
+text.txt   $ append text and data to file (continued fromm line above)
  let loopcounter = loopcounter + 1
end
.endc

.MODEL N1 NMOS LEVEL=14 VERSION=4.3.0 TNOM=27
.end
